Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
codeine / Penicillins
 
Attending: ___.
 
Chief Complaint:
left subcondylar jaw fracture s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with afib on Coumadin s/presents after sustaining a 
mechanical fall. She was walking from her living room to the 
kitchen when she slipped and fell on her chin. No LOC. Denies 
feeling dizzy or faint. Was initially brought to ___ 
___ where a CT head and face was done and revealed a left 
mandibular fracture but no other acute intracranial findings. 
Currently reports L jaw pain and chipped tooth but no other 
complaints. She was transferred from ___ for ___ 
management of L mandibular fx. 
 
Past Medical History:
Past Medical History:  
- Atrial fibrillation 
- Anxiety
- Depression
- Osteoarthritis
- HL
- HTN
- Hypothyroidism

Past Surgical History:  
- L hip replacement ___
- ___ wrist surgery for carpal tunnel 
- Ovarian cyst removal ___
 
Social History:
___
Family History:
notable for atrial fibrillation
 
Physical Exam:
Admission Physical Exam:

Vitals: T 97.9 BP 114/47 HR 50 RR 16 95RA 
GEN: A&O, NAD  
HEENT: 2cm chin laceration, repaired. Left preauricular
tenderness. L sided malocclusion. No scleral icterus, mucus
membranes moist, EOMI, PERRL. R chipped front tooth
Neck: no subcutaneous emphysema, no clavicular tenderness
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses  
Ext: No ___ edema, ___ warm and well perfused
MSK: no spinal tenderness, ROM and sensation intact
Neuro: A&Ox3, CN2-12 intact, ___ strength 
 

Discharge Physical Exam:
 
Vitals:  97.9  69  130/67  16  97% RA
Gen: A&Ox3, well-appearing female, in NAD
HEENT: No scleral icterus, mucus membranes moist; 2cm chin 
laceration primarily closed with sutures, overlying dressing 
c/d/i; persistent mild L preauricular TTP
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits
 
Pertinent Results:
==============
ADMISSION LABS
==============
 
___ 01:15AM BLOOD WBC-11.0* RBC-4.13 Hgb-12.7 Hct-38.4 
MCV-93 MCH-30.8 MCHC-33.1 RDW-13.2 RDWSD-45.0 Plt ___
___ 01:15AM BLOOD Neuts-87.1* Lymphs-8.6* Monos-3.6* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-9.58* AbsLymp-0.94* 
AbsMono-0.40 AbsEos-0.00* AbsBaso-0.02

___ 01:15AM BLOOD ___ PTT-28.6 ___

___ 01:15AM BLOOD Glucose-124* UreaN-25* Creat-1.5* Na-137 
K-4.9 Cl-101 HCO3-23 AnGap-18
___ 01:15AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.2

***Contacted PCP office to confirm baseline creatinine 
1.4-1.5***

========
IMAGING
========

CT C-spine ___:

IMPRESSION:
1. No acute fracture or traumatic malalignment in the cervical 
spine. Multilevel cervical degenerative disease.
2. Displaced left mandibular ramus fracture, better evaluated on 
the ___XR ___:
FINDINGS: 
The lungs are clear without focal consolidation.  No pleural 
effusion or pneumothorax is seen. The cardiac and mediastinal 
silhouettes are unremarkable.  No radiopaque foreign body 
identified.
 
IMPRESSION: 
 
No radiopaque foreign body identified.

CT Head (non-contrast) OSH  ___:
(review with BI radiology)
Displaced and angulated transverse fracture through the L 
mandibular neck 
 
Brief Hospital Course:
Mrs. ___ was transferred to the ___ 
___ and admitted to the Acute Care Surgery Service 
under the care of Dr. ___ for further work up and 
management of her L subcondylar mandibular fracture. She was 
evaluated by the Oral and Maxillofacial Surgery Service in the 
ED who determined that her fracture was nonoperative and 
recommended discharge with outpatient follow up in one week. Her 
chin laceration was primarily repaired and closed with sutures 
and her pain was managed with PO pain medications. Per the 
recommendations of OMFS, she was started on a soft solid diet 
with instructed to avoid excessive chewing, especially utilizing 
the L side of her mouth - this was well tolerated without issue. 
On HD1, she underwent tertiary trauma survey which was negative 
for any additional traumatic injuries. She was also evaluated by 
Physical Therapy given her h/o gait instability and fall and it 
was recommended that she be discharged home with home ___ 
services.

On the evening of HD1, the patient was tolerating a soft solid 
diet, voiding and ambulating with appropriate assistance, her 
pain was well controlled on PO pain medications, her chin 
laceration was clean, dry and intact, and she remained afebrile 
and hemodynamically stable. She was thus deemed ready for 
discharge home with appropriate follow up scheduled with OMFS 
and her PCP in the upcoming weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 100 mg PO QAM 
2. Amiodarone 100 mg PO QPM 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. ALPRAZolam 0.25 mg PO QHS:PRN anxiety  
5. Warfarin 2 mg PO DAILY16 
6. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Do not exceed more than 4000mg in 24 hours. 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0 
2.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*10 Tablet Refills:*0 
3.  ALPRAZolam 0.25 mg PO QHS:PRN anxiety   
4.  Amiodarone 100 mg PO QAM  
5.  Amiodarone 100 mg PO QPM  
6.  Escitalopram Oxalate 10 mg PO DAILY  
7.  Levothyroxine Sodium 88 mcg PO DAILY  
8.  Warfarin 2 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left subcondylar mandibular fracture and chin laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were transferred to the ___ 
after falling and fracturing the left side of your jaw (left 
"subcondylar fracture"). The Oral and Maxillofacial Surgery 
(___) team evaluated your jaw injury and determined that there 
was no need for surgical repair. ___ have no other significant 
injuries following your falling and are otherwise doing very 
well. ___ are now ready to be discharged home with appropriate 
follow up with the ___ surgeons in clinic. In the meantime, 
please be sure to consume a soft diet and avoid forceful 
chewing, especially on the left side of your mouth.

It was a pleasure taking care of ___ here at ___! Best wishes 
for a speedy recovery!
 
Followup Instructions:
___